US06124300
3-Bromo-5-methoxy-α,α-dimethyl-4-[(5-methyl-3-(1-propylbutyl)-3H-1,2,3-triazolo[4,5-d]pyrimidin-7-yl)-oxy]benzenemethanol
To a solution of 3-bromo-5-methoxy-α,α-dimethyl-4-[[5-amino-2-methyl-6-[(1-propylbutyl)amino]-4-pyrimidinyl]oxy]benzene-methanol (0.70 g) in 35 mL of glacial acetic acid, 0.10 g of sodium nitrite in 1 mL of water was added dropwise. The mixture was stirred at room temperature for 20 minutes and then diluted with water, basified with 1 N NaOH and extracted three times with ethyl acetate. The combined extracts were dried over MgSO4 and stripped of the solvent under reduced pressure to yield the title compound as viscous liquid.

reactant | 3-bromo-5-methoxy-α,α-dimethyl-4-[[5-amino-2-methyl-6-[(1-propylbutyl)amino]-4-pyrimidinyl]oxy]benzene-methanol | 0.70 g | BrC=1C=C(C=C(C1OC1=NC(=NC(=C1N)NC(CCC)CCC)C)OC)C(O)(C)C | C22H33BrN4O3
reactant | sodium nitrite | 0.10 g | N(=O)[O-].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
product | 3-Bromo-5-methoxy-α,α-dimethyl-4-[(5-methyl-3-(1-propylbutyl)-3H-1,2,3-triazolo[4,5-d]pyrimidin-7-yl)-oxy]benzenemethanol | BrC=1C=C(C=C(C1OC=1C2=C(N=C(N1)C)N(N=N2)C(CCC)CCC)OC)C(O)(C)C | C22H30BrN5O3
